US06608077B2
b) N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-(pyridin-2-yl)urea
Under Argon, a solution of 3-amino-6-chloro-2-hydroxybenzenesulfonamide (300 mg, 1.35 mmol) and 2-(azidocarbonyl)-pyridine (400 mg, 2.70 mmol) in 5 mL of N,N-dimethyl-formamide was heated to 80° C. for 2 hours. The mixture was kept at room temperature for another 20 hours. Purification upon Gilson HPLC, eluting with acetonitrile/water (10/90, v/v to 90/10, v/v, over 10 min), gave the desired product (287 mg, 62%). LC-MS (m/z) 343.0 (M+).

reactant | 3-amino-6-chloro-2-hydroxybenzenesulfonamide | 1.35 mmol, 300 mg | NC=1C(=C(C(=CC1)Cl)S(=O)(=O)N)O | C6H7ClN2O3S
reactant | 2-(azidocarbonyl)-pyridine | 2.70 mmol, 400 mg | N(=[N+]=[N-])C(=O)C1=NC=CC=C1 | C6H4N4O
reactant | N,N-dimethyl-formamide | 5 mL | CN(C=O)C | C3H7NO
product | N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-(pyridin-2-yl)urea | 287 mg, 62% | NS(=O)(=O)C=1C(=C(C=CC1Cl)NC(=O)NC1=NC=CC=C1)O | C12H11ClN4O4S
